US07132539B2
Preparation of 2-[3-cyclopropylmethyl-4-(2-nitro-benzenesulfonyl)-2-oxo-piperazin-1-yl]-3-naphthalen-2-yl-propionic acid methyl ester (13):
To a solution of 2-[3-cyclopropyl-2-(2-nitro-benzenesulfonylamino)-propionylamino]-3-naphthalen-2-yl-propionic acid methyl ester, 12, (3.46 g, 6.59 mmol) and 1,2-dibromoethane (12.38 g, 65.9 mmol) in DMF (40 mL) is added potassium carbonate (9.10 g, 65.8 mmol). The reaction mixture is stirred for 15 hours at 65° C., cooled and quenched with aqueous NH4Cl solution. The mixture is then extracted several times with EtOAc and the combined extracts dried over Na2SO4 and concentrated in vacuo. The resulting residue is purified over silica gel (hexanes/EtOAc, 1:2) to afford 3.57 g (98% yield) of the desired product. 1H NMR (300 MHz, CD3OD) δ 8.01–8.08 (m, 1H), 7.58–7.84 (m, 7H), 7.43–7.52 (m, 2H), 7.35 (dd, J=8.4 Hz, 1H), 5.38 (dd, J=11.7, 4.8 Hz, 1H), 4.33–4.44 (m, 1H), 3.76–3.88 (m, 1H), 3.69 (s, 3H), 3.21–3.66 (m, 4H), 2.99–3.14 (m, 1H), 1.40–1.53 (m, 1H), 1.02–1.16 (m, 1H), −0.14–−0.02 (m, 3H), −0.34–−0.20 (m, 2H); MS (ESMS) m/z 552.2 (M+H)+.

reactant | 2-[3-cyclopropyl-2-(2-nitro-benzenesulfonylamino)-propionylamino]-3-naphthalen-2-yl-propionic acid methyl ester | COC(C(CC1=CC2=CC=CC=C2C=C1)NC(C(CC1CC1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C26H27N3O7S
reactant | 1,2-dibromoethane | 65.9 mmol, 12.38 g | BrCCBr | C2H4Br2
reactant | potassium carbonate | 65.8 mmol, 9.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-[3-cyclopropylmethyl-4-(2-nitro-benzenesulfonyl)-2-oxo-piperazin-1-yl]-3-naphthalen-2-yl-propionic acid methyl ester | 3.57 g, 98% yield | COC(C(CC1=CC2=CC=CC=C2C=C1)N1C(C(N(CC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC1CC1)=O)=O | C28H29N3O7S
